US20010053779A1
A mixture of 1,2-diamino-3,4,6-trifluorobenzene (1.92 g, 11.8 mmol), ethyl 2-ethoxycarbonimidoylpropionate (3.1 g, 14.7 mmol) and absolute ethanol (6 ml) was heated at reflux until no further progression of the reaction was indicated by TLC indicated the reaction was not progressing further, filtered from NH4Cl and concentrated. The residue was purified by chromatography on silica (hexane: methylene chloride: ethyl acetate, 5:5:1) to give ethyl 2-(4,6,7-trifluoro-1H-benzoimidazol-2-yl)propionate (1.37 g, 42%) as a tan crystalline solid; NMR (CDCl3): δ 10.35 (s, ½H), δ 7.05 (s, ½H), 6.7 (m, 1H), δ 4.25 (dd, 2H), δ 4.15 (dd, 1H), δ 1.73 (d, 3H), δ 1.31 (t, 3H); M+ 272.9 (calcd for C12H11F3N2O2: 272.23).

reactant | 1,2-diamino-3,4,6-trifluorobenzene | 11.8 mmol, 1.92 g | NC1=C(C(=C(C=C1F)F)F)N | C6H5F3N2
reactant | ethyl 2-ethoxycarbonimidoylpropionate | 14.7 mmol, 3.1 g | C(C)OC(=N)C(C(=O)OCC)C | C8H15NO3
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | ethyl 2-(4,6,7-trifluoro-1H-benzoimidazol-2-yl)propionate | 1.37 g, 42% | FC1=CC(=C(C=2NC(=NC21)C(C(=O)OCC)C)F)F | C12H11F3N2O2
